US07531553B2
4-Chloro-7,7a-dihydro-4aH-pyrrolo[2,3-d]pyrimidine (1.66 g, 10.8 mmol), 3,4-dinitrophenol (2.4 g, 13 mmol) and TFA/TEA were heated at 150° C. for 2 h. The resulting green solid was purified on silica gel using a Hexane/EtOAc gradient (100/0 to 50/50) to give 4-(3,4-dinitro-phenoxy)-7,7a-dihydro-4aH-pyrrolo[2,3-d]pyrimidine.

reactant | 4-Chloro-7,7a-dihydro-4aH-pyrrolo[2,3-d]pyrimidine | 10.8 mmol, 1.66 g | ClC=1C2C(N=CN1)NC=C2 | C6H6ClN3
reactant | 3,4-dinitrophenol | 13 mmol, 2.4 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])O | C6H4N2O5
product | 4-(3,4-dinitro-phenoxy)-7,7a-dihydro-4aH-pyrrolo[2,3-d]pyrimidine | [N+](=O)([O-])C=1C=C(OC=2C3C(N=CN2)NC=C3)C=CC1[N+](=O)[O-] | C12H9N5O5
